.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' typical
.temp 27.0
* PEX produced on Sun Aug 23 11:50:01 AM CST 2026 using /home/huda/opensource-project/Microelectronic-Block-Generator/designs/notebooks/chipathon2026-D/scripts/iic-pex.sh with m=2 and s=1
* NGSPICE file created from strongarm_comparator.ext - technology: gf180mcuD

.option scale=5n

.subckt strongarm_comparator OUTN OUTP CLK INN INP VSS VDD
X0 OUTP OUTN VDD VDD pfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=100
X1 a_n2550_3046# CLK VDD VDD pfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X2 a_n2550_3046# INN a_n654_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X3 a_n654_3046# INP a_n4046_3046# VSS nfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=120
X4 OUTN OUTP a_n4046_3046# VSS nfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=100
X5 a_n2550_3046# OUTN OUTP VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=100
X6 a_n654_3046# INN a_n2550_3046# VSS nfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=120
X7 a_n654_3046# INP a_n4046_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X8 a_n654_3046# INN a_n2550_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X9 a_n654_3046# CLK VSS VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X10 a_n4046_3046# INP a_n654_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=120
X11 a_n2550_3046# INN a_n654_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X12 OUTP OUTN VDD VDD pfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=100
X13 OUTN CLK VDD VDD pfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X14 OUTN OUTP VDD VDD pfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=100
X15 OUTN OUTP VDD VDD pfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=100
X16 OUTP CLK VDD VDD pfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X17 OUTP OUTN a_n2550_3046# VSS nfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=100
X18 a_n654_3046# INN a_n2550_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X19 a_n2550_3046# INN a_n654_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X20 OUTN OUTP a_n4046_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=100
X21 a_n2550_3046# INN a_n654_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=120
X22 a_n654_3046# INN a_n2550_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X23 VDD OUTN OUTP VDD pfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=100
X24 a_n654_3046# INP a_n4046_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X25 a_n654_3046# INP a_n4046_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X26 VDD OUTP OUTN VDD pfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=100
X27 a_n4046_3046# INP a_n654_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X28 a_n4046_3046# CLK VDD VDD pfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=100
X29 OUTP OUTN a_n2550_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=100
X30 a_n4046_3046# INP a_n654_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
X31 a_n4046_3046# OUTP OUTN VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=100
X32 a_n4046_3046# INP a_n654_3046# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=120
C0 a_n4046_3046# OUTP 1.72757f
C1 OUTP OUTN 2.89015f
C2 a_n654_3046# INP 0.72255f
C3 a_n4046_3046# OUTN 1.95624f
C4 VDD CLK 3.08247f
C5 a_n654_3046# a_n2550_3046# 4.08741f
C6 a_n2550_3046# INP 0.01248f
C7 VDD OUTP 7.95633f
C8 a_n4046_3046# VDD 1.76921f
C9 VDD OUTN 7.75463f
C10 a_n654_3046# CLK 0.71122f
C11 CLK INP 0.04948f
C12 a_n654_3046# OUTP 0.19591f
C13 OUTP INP 0.07221f
C14 a_n2550_3046# CLK 0.46697f
C15 a_n654_3046# a_n4046_3046# 3.65992f
C16 a_n4046_3046# INP 0.68418f
C17 a_n2550_3046# OUTP 2.15974f
C18 a_n654_3046# INN 0.79245f
C19 a_n2550_3046# a_n4046_3046# 0.40425f
C20 a_n2550_3046# OUTN 0.79746f
C21 a_n2550_3046# INN 0.67531f
C22 OUTP CLK 0.07825f
C23 a_n4046_3046# CLK 0.20079f
C24 a_n2550_3046# VDD 1.88099f
C25 OUTN CLK 0.44523f
C26 INN VSS 3.87014f
C27 INP VSS 4.06721f
C28 CLK VSS 2.75602f
C29 OUTN VSS 4.72965f
C30 OUTP VSS 4.28654f
C31 VDD VSS 35.9755f
C32 a_n654_3046# VSS 5.98662f ; **FLOATING
C33 a_n2550_3046# VSS 3.98518f ; **FLOATING
C34 a_n4046_3046# VSS 3.76276f ; **FLOATING
.ends

Vsupply0 VDD 0 DC 3.300000
Vsupply1 VSS 0 DC 0.0
Vsrc0 INP 0 PWL(0 1.6125000 1e-07 1.5875000)
Vsrc1 INN 0 PWL(0 1.5875000 1e-07 1.6125000)
Vsrc2 CLK 0 PULSE(0 3.300000 2e-08 0.1n 0.1n 5e-08 1e-07)
C_load_OUTP OUTP 0 2e-14
C_load_OUTN OUTN 0 2e-14
Xdut OUTN OUTP CLK INN INP VSS VDD strongarm_comparator

.probe tran i(Vsupply0)
.control
tran 20p 2e-07
wrdata comb.dat v(OUTP) v(OUTN) v(CLK) i(Vsupply0)
.endc
.end
